US04329347
6-(3-Benzylsulfinyl-propoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 123 from 6-(3-benzylmercapto-propoxy)-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-(3-benzylmercapto-propoxy)-3,4-dihydro-carbostyril | C(C1=CC=CC=C1)SCCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-(3-Benzylsulfinyl-propoxy)-3,4-dihydro-carbostyril | C(C1=CC=CC=C1)S(=O)CCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO3S
